US05807860
Imidazole (11.8 g, 0.173 mol), potassium carbonate (0.147 mol), cuprous chloride (1.4 g, 0.014 mol), and N-methylpyrrolidone (270 ml) were added to N-pentyl-(5-bromo-2-methoxyphenyl) methylamine (38.0 g, 0.133 mol), and then the mixture was heated with stirring at 178°-182° C. for 7 hours. The reaction mixture was cooled and added with ethyl acetate (200 ml), and then, inorganic salts and the like were removed by filtration and the solvent was evaporated. The residue was extracted with ethyl acetate, and the extract was washed with 10% aqueous ammonia and then with saturated brine. After dryness over anhydrous sodium sulfate, the solvent was evaporated. The residue was purified by silica gel chromatography (Wako Gell C-300: 360 g, eluent: methyl alcohol/ethyl acetate=1/10 to 1/3) to give N-pentyl-(5-imidazolyl-2-methoxyphenyl)methylamine (21.3 g) as oil.

reactant | Imidazole | 0.173 mol, 11.8 g | N1C=NC=C1 | C3H4N2
reactant | potassium carbonate | 0.147 mol | C([O-])([O-])=O.[K+].[K+]
reactant | N-methylpyrrolidone | 270 ml | CN1C(CCC1)=O | C5H9NO
reactant | N-pentyl-(5-bromo-2-methoxyphenyl) methylamine | 0.133 mol, 38.0 g | C(CCCC)NCC1=C(C=CC(=C1)Br)OC | C13H20BrNO
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | N-pentyl-(5-imidazolyl-2-methoxyphenyl)methylamine | 21.3 g | C(CCCC)NCC1=C(C=CC(=C1)C=1NC=CN1)OC | C16H23N3O
